US07678820B2
To a suspension of 3,4-diaminobenzonitrile (400 mg) in CH3OH (4 ml) was added BrCN (477 mg), followed by stirring at 20° C. for 14 hours. To the reaction mixture was added a 1M aqueous NaOH solution (0.117 ml), followed by concentration. To the residue was added chloroform:CH3OH=10:1 (10 ml), and the resulting insolubles were removed by filtration. The filtrate was concentrated, and the obtained residue was purified by silica gel column chromatography to obtain 2-amino-1H-benzimidazole-6-carbonitrile (311 mg) as pale orange color powders.

reactant | 3,4-diaminobenzonitrile | 400 mg | NC=1C=C(C#N)C=CC1N | C7H7N3
reactant | BrCN | 477 mg | BrC#N | CBrN
reactant | NaOH | 1M, 0.117 ml | [OH-].[Na+]
solvent | CH3OH | 4 ml | CO | CH4O
product | 2-amino-1H-benzimidazole-6-carbonitrile | 311 mg | NC1=NC2=C(N1)C=C(C=C2)C#N | C8H6N4
